US08541429B2
Step 2. 2-(benzylthio)-8-ethoxy-5,6-dihydroquinazoline
To a solution of 2.0 g (0.01 mol) of 6-[(dimethylamino)methylene]-2-ethoxycyclohex-2-en-1-one in 20 mL of dimethylformamide 2.6 g of S-benzylisothiourea (2 eq. mol.) were added. The reaction mixture was stirred at 95° C. for 4 hours. The solvent was then evaporated under reduced pressure and the crude purified by chromatography on a silica gel column (eluant dichloromethane/methanol 9/1) leading 1.5 g (50% yield) of the title compound.

reactant | 6-[(dimethylamino)methylene]-2-ethoxycyclohex-2-en-1-one | 0.01 mol, 2.0 g | CN(C)C=C1CCC=C(C1=O)OCC | C11H17NO2
reactant | S-benzylisothiourea | 2 eq. | C(C1=CC=CC=C1)SC(N)=N | C8H10N2S
solvent | dimethylformamide | 20 mL, 2.6 g | CN(C=O)C | C3H7NO
product | 2-(benzylthio)-8-ethoxy-5,6-dihydroquinazoline | 1.5 g, 50% yield | C(C1=CC=CC=C1)SC1=NC=2C(=CCCC2C=N1)OCC | C17H18N2OS
